data/mechanism_extracts/JOC/10.1021_acs.joc.4c00991.json
{"doi": "10.1021_acs.joc.4c00991", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative selenocyclization of N-allyl ureas with diaryl diselenides to give selenylated cyclic isoureas, with subsequent acid-catalyzed skeletal rearrangement to cyclic ureas", "mechanism_family": ["radical_anodic", "cation_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of diaryl diselenide (ArSe-SeAr) to aryl selenium radical cations / ArSe+ cation; cathodic reduction of protons to H2 at platinum", "key_intermediates": [{"name": "diaryl diselenide radical cation / ArSe+ cation (B -> ArSe+)", "smiles": null, "role": "reactive"}, {"name": "cyclic seleniranium ion (I) from ArSe+ addition to allyl alkene", "smiles": null, "role": "reactive"}, {"name": "kinetic 5-exo-tet cyclic isourea product C (O-cyclized, selenylated oxazoline-type)", "smiles": null, "role": "transient"}, {"name": "N-protonated isourea II (after protonation of exocyclic N of C)", "smiles": null, "role": "reactive"}, {"name": "regenerated seleniranium I via reversible neighboring group participation (NGP) of Se", "smiles": null, "role": "transient"}, {"name": "cyclic urea D (N-cyclized, thermodynamic product)", "smiles": null, "role": "reactive"}], "electron_flow": "At the graphite anode, diaryl diselenide B is oxidized (lower onset, 1.49 V vs 1.57 V for substrate) to generate ArSe+, which electrophilically adds to the allyl alkene of urea A to give a seleniranium ion I; intramolecular 5-exo-tet attack by the urea oxygen yields cyclic isourea C, while the two released protons are reduced to H2 at the Pt cathode. Under HClO4/heat, C is protonated at the exocyclic N (II) and undergoes reversible NGP back to I followed by irreversible N-attack to give the thermodynamic cyclic urea D.", "rate_determining_step": "Anodic oxidation of diaryl diselenide to generate the ArSe+ electrophile (lowest-potential, kinetically gating event)", "probe_reagents": [{"name": "argon atmosphere (O2 exclusion)", "smiles": null, "purpose": "other", "observation": "Reaction proceeds with similar yield (75%) under Ar, ruling out aerial O2 involvement"}, {"name": "divided cell with A1+B1 in anolyte", "smiles": null, "purpose": "other", "observation": "C1 formed in 55% yield, confirming oxidative (anodic) pathway"}, {"name": "divided cell with A1+B1 in catholyte", "smiles": null, "purpose": "other", "observation": "No product formed, confirming anode is the working electrode"}, {"name": "competition: (4-MeC6H4Se)2 (B2) vs (4-FC6H4Se)2 (B6)", "smiles": null, "purpose": "redox_probe", "observation": "Slight preference for electron-deficient 4-F aryl selenide product C27 (35%) over 4-Me C23 (27%), consistent with easier oxidation/transfer of more electron-poor diselenide"}, {"name": "cyclic voltammetry of (PhSe)2 and A12", "smiles": null, "purpose": "redox_probe", "observation": "(PhSe)2 oxidizes at Ep=1.49 V with strong current; substrate A12 oxidizes at 1.57 V with much weaker current, indicating diselenide is preferentially oxidized"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Two-stage mechanism: (1) electrochemical selenocyclization gives kinetic O-cyclized isourea C; (2) separate HClO4/dioxane acid-catalyzed skeletal rearrangement converts C to thermodynamic N-cyclized urea D via reversible seleniranium reformation (NGP) then irreversible N-attack. Authors invoke H2 evolution at Pt cathode as the counter-reaction. No radical traps (TEMPO/BHT), KIE, or DFT reported; mechanism supported mainly by CV, divided-cell, and control experiments."}
